US07807671B2
To a solution of 2-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (5.3 g, 20.8 mmol) (prepared as described on US20050090522A1) in DMF (100 mL) was added 1-(1-phenyl-1H-tetrazol-5-yl)piperazine (4.8 g, 20.8 mmol), TBTU (7.4 g, 23.0 mmol), and N,N-diisopropylethylamine (12.0 mL, 68.9 mmol). The mixture was stirred at rt for 16 hr. The solvent was removed under reduced pressure, and the remaining residue was dissolved in hot MeOH. Upon cooling, precipitate formed. The precipitate was collected by filtration, and was washed with H2O (3×75 mL). The mother liquor was concentrated under reduced pressure, then subjected to a second crystallization using the same method. The combined precipitates gave 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione as a light brown solid (7.3 g, 15.6 mmol). 1H NMR (500 MHz, CDCl3) δ 9.64 (s, 1H), 8.11 (s, 1H), 7.76 (s, 1H), 7.62-7.50 (m, 5H), 4.00 (s, 3H), 3.83-3.81 (m, 2H), 3.57-3.56 (m, 2H), 3.43-3.41 (m, 2H), 3.33-3.32 (m, 2H). LCMS: m/e 467.3 (M+H)+, ret time 1.99 min (method 2).

reactant | 2-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 20.8 mmol, 5.3 g | ClC=1N=CC(=C2C1NC=C2C(C(=O)O)=O)OC | C10H7ClN2O4
reactant | 1-(1-phenyl-1H-tetrazol-5-yl)piperazine | 20.8 mmol, 4.8 g | C1(=CC=CC=C1)N1N=NN=C1N1CCNCC1 | C11H14N6
reactant | TBTU | 23.0 mmol, 7.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 68.9 mmol, 12.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 15.6 mmol, 7.3 g | ClC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)OC | C21H19ClN8O3
